* OVERALL BEST CANDIDATE: 00_Phase_1_15V_Rail_to_5V_Buck_g2_cand1_b4
* FITNESS SCORE: 0.9270
*
* Generated: 2026-06-04T17:15:46
* Constraint: Phase 1: 15V Rail to 5V (Buck)
*   vin_min = 13
*   vin_max = 17
*   vout_target = 5
*   efficiency_target = 0.79
*   power_in = 20
* Candidate: 4 of 12
* Grouped name: g2_cand1
*
* 15V to 5V Buck Converter
Vin in 0 15
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 220u
Rload out 0 0.5
Vgate gate 0 PULSE(0 12 0 1n 1n 4.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
