* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_8
* Fitness: 0.9920
*
* --- Active Constraints ---
* _comment: Phase 1: 15V Rail to 5V (Buck)
* vin_min: 13
* vin_max: 17
* vout_target: 5
* efficiency_target: 0.79
* power_in: 20
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 5.066725
* efficiency: 0.904678
* total_volume_cm3: 24.694493
* total_components: 4
* ============================

* 15V to 5V Buck
Vin in 0 15
M1 in gate sw sw NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 47u
C1 out 0 470u
Rload out 0 0.5
Vgate gate sw PULSE(0 12 0 1n 1n 4.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end